US07713994B2
N-Methyl-2-carboxybenzeneacetamide
To 20 ml of 2.0 M methylamine in THF is added 1.62 g (10 mmol) of isochroman-1,3-dione at 0° C. The mixture is stirred at 25° C. for 45 m and concentrated to dryness. The residue is stirred in 40 ml of 0.3 N HCl. The white solid is filtered off, washed with water, and dried to give 1.74 g (90%); 1H NMR (DMSO-d6) δ 7.80 (s, 1H), 7.81 (s, 1H), 7.40 (m, 3H), 3.83 (s, 2H), 2.57 (s, 3H); MS (ES−) m/z 192.1 (M−H)−1: Analysis for C10H11NO3: Calcd: C, 62.17; H, 5.74; N, 7.25. Found: C, 62.16; H, 5.81; N, 7.24

reactant | methylamine | 2.0 M, 20 ml | CN | CH5N
reactant | isochroman-1,3-dione | 10 mmol, 1.62 g | C1(OC(CC2=CC=CC=C12)=O)=O | C9H6O3
solvent | THF | C1CCOC1 | C4H8O
product | N-Methyl-2-carboxybenzeneacetamide | CNC(CC1=C(C=CC=C1)C(=O)O)=O | C10H11NO3
